### PR TITLE
[Merged by Bors] - feat(NumberTheory/NumberField/Cyclotomic): cardinality of the subgroup of characters associated to an intermediate field equals its degree

### PR DESCRIPTION
**Pull request by xroblot**
New main result : `card_intermediateFieldEquivSubgroupChar`: the cardinality of the subgroup of Dirichlet characters of level `n` associated to an intermediate field `F` of `ℚ(ζₙ)/ℚ` equals the degree `[F : ℚ]`.

---

- [x] depends on: #34571
- [x] depends on: #37108

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Galois.lean [hunk 1]
```diff
@@ -179,7 +179,12 @@ theorem mem_subgroupGalEquivSubgroupChar_symm_iff (σ : Gal(K/ℚ))
     MulEquiv.coe_mapSubgroup, Subgroup.mem_map_equiv, MulEquiv.symm_symm,
     mem_subgroupOrderIsoSubgroupMulChar_symm_iff]
 
-variable [IsGalois ℚ K]
+theorem card_subgroupGalEquivSubgroupChar [IsMulCommutative Gal(K/ℚ)] (H : Subgroup Gal(K/ℚ)) :
+    Nat.card (subgroupGalEquivSubgroupChar n K R H).ofDual = Nat.card (Gal(K/ℚ) ⧸ H) := by
+  rw [subgroupGalEquivSubgroupChar, OrderIso.trans_apply, card_subgroupOrderIsoSubgroupMulChar]
+  exact Nat.card_congr (QuotientGroup.congr _ _ (galEquivZMod n K) rfl).symm.toEquiv
+
+variable [IsAbelianGalois ℚ K]
```
Comment (riccardobrasca) [inline Mathlib/NumberTheory/NumberField/Cyclotomic/Galois.lean:188]: Isn't this adding a stronger assumption than what we currently have?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/NumberTheory/NumberField/Cyclotomic/Galois.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/NumberTheory/NumberField/Cyclotomic/Galois.lean:188]: Well, it is on paper but not really since we have [IsCyclotomicExtension.isAbelianGalois](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/Cyclotomic/Basic.html#IsCyclotomicExtension.isAbelianGalois) that proves that `K` is abelian with exactly the same hypothesis than [IsCyclotomicExtension.isGalois](https://leanprover-community.github.io/mathlib4_docs/Mathlib/NumberTheory/Cyclotomic/Basic.html#IsCyclotomicExtension.isGalois) proves that it is Galois. Note that we need to know that the Galois group is abelian to deduce that subgroups are normal later on.
